US09388189B2
b) 4-Amino-6-chloro-N-(3-methoxybenzyl)pyrimidine-5-carboxamide
4,6-Dichloro-N-(3-methoxybenzyl)pyrimidine-5-carboxamide (523 mg, 1.68 mmol) was dissolved in dioxane (8 ml) and cooled in an ice bath. Ammonia solution (1.2 ml, 8.40 mmol, 7N in MeOH) was added dropwise and the mixture was stirred at 0° C. for 6 h. After evaporation of the solvent under reduced pressure, the residue was suspended in ethyl acetate and filtered, washing several times with ethyl acetate. The organics were evaporated under reduced pressure to yield the final compound as a solid (424 mg, 97% purity, 84% yield) which was used in the next synthetic step without further purification.

reactant | 4,6-Dichloro-N-(3-methoxybenzyl)pyrimidine-5-carboxamide | 1.68 mmol, 523 mg | ClC1=NC=NC(=C1C(=O)NCC1=CC(=CC=C1)OC)Cl | C13H11Cl2N3O2
reactant | Ammonia | 8.40 mmol, 7N, 1.2 ml | N | H3N
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6-chloro-N-(3-methoxybenzyl)pyrimidine-5-carboxamide | 424 mg, 84% yield | NC1=NC=NC(=C1C(=O)NCC1=CC(=CC=C1)OC)Cl | C13H13ClN4O2
